US04318854
3,4-Dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one
A mixture of 5.2 g (22 mmole) of 3,4-dihydro-1-phenyl-5H-2-benzazepin-5-one and 43 ml of dimethylformamide dimethyl acetal was refluxed for 4 hr. The mixture was concentrated at reduced pressure to dryness. The residue was crystallized with ether to give a yellow solid, mp 131°-133° C. Recrystallization from ether gave yellow prisms, mp 131°-132° C.

reactant | 3,4-dihydro-1-phenyl-5H-2-benzazepin-5-one | 22 mmole, 5.2 g | C1(=CC=CC=C1)C1=NCCC(C2=C1C=CC=C2)=O | C16H13NO
reactant | dimethylformamide dimethyl acetal | 43 ml | COC(N(C)C)OC | C5H13NO2
product | 3,4-Dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one | CN(C)C=C1CN=CC2=C(C1=O)C=CC=C2 | C13H14N2O
